US07696136B2
Pentyl Mandelate
A 100 mL three-neck flask, equipped with a magnetic stir bar, a Claisen adapter with a thermocouple and a subsurface nitrogen inlet, and a short path condenser, was charged with 7.94 grams of ethyl mandelate, 40 mL of 1-pentanol, and 0.75 gram of p-toluenesulfonic acid. The reaction was stirred at 120°-132° C. for 4.0 hours with a nitrogen sweep. The reaction mixture was taken up in butyl acetate, extracted with dilute aqueous sodium hydroxide, washed three times with water, dried over magnesium sulfate, and filtered. Solvent was removed by rotary evaporation to yield 8.3 grams of a straw-colored liquid.

reactant | ethyl mandelate | 7.94 grams | C(C(O)C1=CC=CC=C1)(=O)OCC | C10H12O3
reactant | 1-pentanol | 40 mL | C(CCCC)O | C5H12O
reactant | p-toluenesulfonic acid | 0.75 gram | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | butyl acetate | C(C)(=O)OCCCC | C6H12O2
product | Pentyl Mandelate | 8.3 grams | C(C(O)C1=CC=CC=C1)(=O)OCCCCC | C13H18O3
